US07462629B2
To a solution of 6-(4-chloro-3-trifluoromethyl-phenoxymethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (70 mg, 0.158 mmol) in CH2Cl2 (1 mL) is added TFA(1 mL). The mixture is stirred at room temperature for 30 minutes. All the solvents are removed under reduced pressure. The mixture is dissolved in CH3OH (1.5 mL). Then DIEA (269 μL, 10 eq.) and acrylic acid tert-butyl ester (46 μL, 2 eq.) are added. The mixture is heated to 90° C. for 20 minutes using microwave irradiation. All the solvent is evaporated and the mixture is purified by column chromatography (silica gel, EtOAc/Hexane, gradient) to give 56 mg of 3-[6-(4-chloro-3-trifluoromethyl-phenoxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid tert-butyl ester.

reactant | 6-(4-chloro-3-trifluoromethyl-phenoxymethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.158 mmol, 70 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)COC1=CC(=C(C=C1)Cl)C(F)(F)F | C22H23ClF3NO3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DIEA | 269 μL, 10 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | acrylic acid tert-butyl ester | 46 μL, 2 eq. | C(C)(C)(C)OC(C=C)=O | C7H12O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-[6-(4-chloro-3-trifluoromethyl-phenoxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid tert-butyl ester | 56 mg | C(C)(C)(C)OC(CCN1CC2=CC=C(C=C2CC1)COC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C24H27ClF3NO3
